US04868174
To a solution of 7-benzoylamino-3-chloromethyl-3-cephem-4-carboxylic acid (14 g) in tetrahydrofuran (280 ml) was added dropwise 1-methylpyrrolidine (16.9 g) over a period of 10 minutes at 10° C. After the mixture was stirred for two hours at 25°~28° C., ethyl acetate (280 ml) was added thereto. The precipitate was collected by filtration, washed with ethyl acetate and diisopropyl ether, dried over phosphorus pentoxide to give 7-benzoylamino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate.

reactant | 7-benzoylamino-3-chloromethyl-3-cephem-4-carboxylic acid | 14 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O | C15H13ClN2O4S
reactant | 1-methylpyrrolidine | 16.9 g | CN1CCCC1 | C5H11N
reactant | ethyl acetate | 280 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
product | 7-benzoylamino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | C20H23N3O4S
